US07888364B2
Procedure G was used to couple 4-(2-hydroxyethylsulfamoyl)benzoic acid with 4-chloro-3-(pyridin-2-yl)aniline (42 mg) to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-[(2-hydroxyethyl)amino]sulfonyl]-benzamide. MS (Q1) 431.9 (M)+.

reactant | 4-(2-hydroxyethylsulfamoyl)benzoic acid | OCCNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H11NO5S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 42 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
